US07759379B2
b) N-(4-methylpiperazin-1-yl)-5-amino-2-isopropylamino-benzamide
2.0 g (6.5 mmol) of N-(4-methylpiperazin-1-yl)-2-isopropylamino-5-nitrobenzamide were dissolved in 40 ml of glacier acetic acid and 6.8 g of zinc powder were added gradually at 45-50° C. For workup, 40 ml of water were added, the mixture was extracted once with ethyl acetate, the water phase was alkalized with NaOH, and the mixture was extracted repeatedly with methylene chloride. The residue remaining after drying and concentration (1.9 g) could be used for the next reaction without further purification.

reactant | N-(4-methylpiperazin-1-yl)-2-isopropylamino-5-nitrobenzamide | 6.5 mmol, 2.0 g | CN1CCN(CC1)NC(C1=C(C=CC(=C1)[N+](=O)[O-])NC(C)C)=O | C15H23N5O3
reactant | water | 40 ml | O | H2O
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 6.8 g | [Zn] | Zn
product | N-(4-methylpiperazin-1-yl)-5-amino-2-isopropylamino-benzamide | CN1CCN(CC1)NC(C1=C(C=CC(=C1)N)NC(C)C)=O | C15H25N5O
